US04792628
Into 100 ml of a chloroform solution containing 1.77 g of 1-amino-4,6-dimethyl-7-hydroxyindane and 2 ml of triethylamine was added dropwise 1.72 g of methanesulfonyl chloride at a room temperature, the mixture was stirred at the same temperature for 4 hours. The reaction mixture was washed with a diluted hydrochloric acid, water, a saturated sodium bicarbonate aqueous solution, water and a saturated sodium chloride aqueous solution, in this order, then dried with anhydrous sodium sulfate. The solvent was removed by evaporation and the residue was recrystallized from ether-n-hexane to obtain 0.58 g of 1-methanesulfonylamino-4,6-dimethyl-7-hydroxyindane in the form of colorless powdery substance. Melting point: 114°-116° C.

reactant | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
reactant | 1-amino-4,6-dimethyl-7-hydroxyindane | 1.77 g | NC1CCC2=C(C=C(C(=C12)O)C)C | C11H15NO
reactant | methanesulfonyl chloride | 1.72 g | CS(=O)(=O)Cl | CH3ClO2S
solvent | triethylamine | 2 ml | C(C)N(CC)CC | C6H15N
product | 1-methanesulfonylamino-4,6-dimethyl-7-hydroxyindane | 0.58 g | CS(=O)(=O)NC1CCC2=C(C=C(C(=C12)O)C)C | C12H17NO3S
